US09085576B2
Step 1: 2-(benzylthio)-5-chloropyridine
To a suspension of cesium carbonate (3.76 g, 11.5 mmol) in DMF (20 mL) at room temperature was added 5-chloro-2-fluoropyridine (1.00 mL, 9.96 mmol) and benzylmercaptan (1.15 mL, 9.80 mmol). The reaction mixture was stirred at room temperature for 16 h and heated to 60° C. for 6 h. The reaction mixture was diluted with Et2O. The organic phase was washed with water (2×), brine and dried over MgSO4. The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel (5% to 10% EtOAc in heptane) to give the title compound (2.33 g, 9.88 mmol, 101% yield) as a colorless oil that was used without further purification in the next step. MS) m/z=236.1 [M+H]+. Calculated for C12H10ClNS 235.0.

reactant | cesium carbonate | 11.5 mmol, 3.76 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-chloro-2-fluoropyridine | 9.96 mmol, 1.00 mL | ClC=1C=CC(=NC1)F | C5H3ClFN
reactant | benzylmercaptan | 9.80 mmol, 1.15 mL | C(C1=CC=CC=C1)S | C7H8S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | 2-(benzylthio)-5-chloropyridine | 9.88 mmol, 2.33 g, 101% yield | C(C1=CC=CC=C1)SC1=NC=C(C=C1)Cl | C12H10ClNS
